US08183239B2
(S)-Tetrahydro-furan-3-carboxylic acid {4-[4-(diethylcarbamoyl-phenyl-methyl)-piperazin-1-yl]-3-fluoro-phenyl}-amide
A mixture of 2-[4-(4-amino-2-fluoro-phenyl)-piperazin-1-yl]-N,N-diethyl-2-phenyl-acetamide (0.30 mmol) and DCC (1.0 mmol) in DCE (10 mL) was stirred at rt for 1 h, then was treated with (S)-tetrahydro-furan-3-carboxylic acid (1.0 mmol), and was stirred at rt for 16 h. The mixture was concentrated, and the residue was purified by PTLC to provide the title compound (74 mg, 51%). MS (ESI): mass calcd. for C27H35FN4O3, 482.27. m/z found, 483.4 [M+H]+. 1H NMR (CDCl3): 7.75-7.60 (m, 1H), 7.55-7.26 (m, 5H), 7.10-7.00 (m, 1H), 6.84 (t, J=9.0, 1H), 4.21 (s, 1H), 4.05-3.72 (m, 4H), 3.50-3.10 (m, 4H), 3.10-2.95 (m, 5H), 2.73-2.60 (m, 4H), 2.28-2.18 (m, 2H), 1.14-1.02 (m, 6H).

reactant | 2-[4-(4-amino-2-fluoro-phenyl)-piperazin-1-yl]-N,N-diethyl-2-phenyl-acetamide | 0.30 mmol | NC1=CC(=C(C=C1)N1CCN(CC1)C(C(=O)N(CC)CC)C1=CC=CC=C1)F | C22H29FN4O
reactant | DCC | 1.0 mmol | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | (S)-tetrahydro-furan-3-carboxylic acid | 1.0 mmol | O1C[C@H](CC1)C(=O)O | C5H8O3
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | (S)-Tetrahydro-furan-3-carboxylic acid {4-[4-(diethylcarbamoyl-phenyl-methyl)-piperazin-1-yl]-3-fluoro-phenyl}-amide | 74 mg, 51% | C(C)N(C(=O)C(N1CCN(CC1)C1=C(C=C(C=C1)NC(=O)[C@@H]1COCC1)F)C1=CC=CC=C1)CC | C27H35FN4O3
